US08258144B2
A mixture of tert-butyl 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate (251 mg, 0.496 mmol), 4-aminobenzamide (102 mg, 0.750 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 116° C. in a sealed tube for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give 4-(4-(piperidin-3-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (36 mg).

reactant | tert-butyl 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate | 0.496 mmol, 251 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CN(CCC2)C(=O)OC(C)(C)C | C23H28ClN5O4S
reactant | 4-aminobenzamide | 0.750 mmol, 102 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | 4-(4-(piperidin-3-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 36 mg | N1CC(CCC1)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C25H27N7O3S
